Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:11]([H:12])([H:13])[H:14].[H:1][C:2]([H:3])([C:4]#[C:5][C:6][C:7]([H:8])[H:9])[H:10]>>[H:1][C:2]([H:3])[C:4]#[C:5][C:6]([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-3.62786670069
[H:8].[O:1]=[C:2]([H:3])[O:4]/[C:5]=[C:6](\[H:7])[C:9]([H:10])([H:11])[H:12]>>[O:1]=[C:2]([H:3])[O:4][C:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12],-2.69517499182
[O:1]=[C:2]=[C:3][O:4][H:5]>>[O:1][C:2][C:3].[O:4][H:5],5.587413066799999
[O:1][C@@:2]1([H:3])[O:4][C@@:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]1([H:12])[H:13]>>[O:1]=[C:2]([H:3])[C:11]([C@:5]([O:4])([H:6])[C:7]([H:8])([H:9])[H:10])([H:12])[H:13],-0.16065277817
[H:1].[O:2]=[C:3]([H:4])[C@@:5]([H:6])([C:7]([H:8])=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][O:2][C:3]([H:4])[C@@:5]([H:6])([C:7]([H:8])=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-1.4619424131
[O:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16].[O:1],8.07729257
[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C@@:7]([H:8])([C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][O:2]/[C:3]([H:4])=[C:5]/[C@:7]([H:8])([C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:6],4.9681402052
[C:3](=[C:4](\[H:5])[O:6][C:7]([H:8])[H:9])\[C:10]([H:11])([H:12])[H:13].[H:1][C:2]>>[H:1][C:2]/[C:3](=[C:4](\[H:5])[O:6][C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-6.277814595830001
[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])[H:7]>>[C:5]([H:6])[H:7].[O:1]=[C:2]([H:3])[O:4],5.07040229674
[C:7]([H:8])[H:9].[H:1][C:2]#[C:3][C:4][O:5][H:6]>>[H:1][C:2]#[C:3][C:4]([O:5][H:6])=[C:7]([H:8])[H:9],-7.18131161204
[C:1]#[C:2][C:3]([H:4])[C:5][O:8][H:9].[C:6][H:7]>>[C:1]#[C:2][C:3]([H:4])[C:5](=[C:6][H:7])[O:8][H:9],-7.119599394339999
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[C:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16].[H:1][C:2]#[C:3][C:4]([H:5])[H:6],3.31585412553
[H:1][O:2][C:3][C:4]#[C:5][C:6]([H:7])[C:8]([H:9])([H:10])[H:11]>>[C:6]([H:7])[C:8]([H:9])([H:10])[H:11].[H:1][O:2][C:3][C:4]#[C:5],6.445195549580001
[H:4].[O:1]=[C:2]([H:3])[C:5]([H:6])([H:7])/[C:8]([H:9])=[C:10](\[H:11])[O:12][H:13]>>[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])/[C:8]([H:9])=[C:10](\[H:11])[O:12][H:13],-0.974258103866
[H:12].[H:1][C:2][C:3]([H:4])([H:5])[O:6][O:7][C:8]([H:9])=[C:10][H:11]>>[H:1][C:2][C:3]([H:4])([H:5])[O:6][O:7][C:8]([H:9])=[C:10]([H:11])[H:12],-5.117332705880001
[H:1][C:2]([H:3])[C@@:4]([H:5])([C:6]([H:7])=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:6]([H:7])(=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[H:1][C:2]([H:3])=[C:4][H:5],1.7277230434200002
[C:1]=[O:2].[C:3]([H:4])=[C:5]([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:1][O:2][C:3]([H:4])=[C:5]([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],1.01540060235
[H:3].[O:1]=[C:2][C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9](\[H:10])[O:11][H:12]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9](\[H:10])[O:11][H:12],-4.10127042206
[H:1][C:2]([H:3])([H:4])[C:5][C:6]#[C:7][C:8]([H:9])([H:10])[H:11]>>[C:2]#[C:7][C:8]([H:9])([H:10])[H:11].[H:1][C:6]([H:3])([H:4])[C:5],5.862466657509999
[C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:1][C:2]>>[H:1][C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-5.00372828128
[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:8]([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16].[H:7]>>[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-1.18360902828
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[C:9]([H:10])([H:11])[C:12]=[C:13]([H:14])[H:15].[H:8]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]=[C:13]([H:14])[H:15],-4.44199308739
[H:1][C:2]=[C:3]([C:4][O:5][H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[H:12]>>[H:1][C:2][C:3]([C:4][O:5][H:6])[C:7]([H:8])=[C:10]([H:11])[H:12].[H:9],1.80071726632
[H:1][C:2]#[C:3].[O:4]=[C:5]([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][C:2]#[C:3][O:4][C:5]([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-1.8335169917700005
[C:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14]>>[C:1].[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14],7.2732032581100015
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])[C:9]([H:10])([H:11])[O:12][H:13]>>[H:11].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9](\[H:10])[O:12][H:13],1.64536653071
[C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]#[C:9][C:10]([H:11])([H:12])[H:13].[O:1]>>[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]#[C:9][C:10]([H:11])([H:12])[H:13],-4.1929356354400005
[C:10]([H:11])[H:12].[O:1]=[C:2]([H:3])[C:4]([H:5])[O:6][C:7]([H:8])[H:9]>>[O:1]=[C:2]([H:3])[C@@:4]([H:5])([O:6][C:7]([H:8])[H:9])[C:10]([H:11])[H:12],-4.06076519433
